US04866064
Seven point two (7.2) g of the thus obtained 2-amino-5-phenylthio-1,3,4-thiadiazole and 4.9 g of ethyl 3-hydroxy-2-methyl-2-propenoate were mixed with 13 g of polyphosphoric acid. By the same procedure as in Preparation Example 4, 5.9 g of 2-phenylthio-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained.

reactant | 2-amino-5-phenylthio-1,3,4-thiadiazole | NC=1SC(=NN1)SC1=CC=CC=C1 | C8H7N3S2
reactant | ethyl 3-hydroxy-2-methyl-2-propenoate | 4.9 g | OC=C(C(=O)OCC)C | C6H10O3
product | 2-phenylthio-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 5.9 g, Yield 58% | C1(=CC=CC=C1)SC1=NN2C(=NC=C(C2=O)C)S1 | C12H9N3OS2
